US05527827
1-(Thiazol-2-yl)propanone
To a solution of thiazole (10 g, 0.12 mol) in dry THF (100 mL) at -78° C. was added BuLi (50 mL, 2.47M in hexane). The resulting reaction mixture was stirred 30 min. then ethyl propionate (18.8 mL, 0.16 mol) in THF was added and the cooling bath was removed. After 30 min. an aqueous solution of NH4OAc (25%) was added and the THF evaporated. Ether was added and washed successively with H2O, brine, dried over MgSO4 and evaporated. The residue was distilled under vacuum to give 12.1 g (73%) of the title compound.

reactant | thiazole | 0.12 mol, 10 g | S1C=NC=C1 | C3H3NS
reactant | BuLi | 2.47M, 50 mL | [Li]CCCC
reactant | ethyl propionate | 0.16 mol, 18.8 mL | C(CC)(=O)OCC | C5H10O2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 1-(Thiazol-2-yl)propanone | 12.1 g, 73% | S1C(=NC=C1)CC(C)=O | C6H7NOS
